US04801705
(A) 1-[3,4-Bis[(trimethylsilyl)oxy]phenyl]-3-(trimethylsilyl)-2-imidazolidinone
To a solution of 3.4 g (17.5 mmol) of 1-(3,4-dihydroxyphenyl)-2-imidazolidinone in 10 ml of ethyl acetate was added 7.6 g (70 mmol) of chlorotrimethylsilane, and subsequently 7.0 g (70 mmol) of triethylamine. After stirring overnight at room temperature, the precipitate was filtered off under nitrogen and the filtrate evaporated to dryness in vacuo; yield: 7.14 g.

reactant | 1-(3,4-dihydroxyphenyl)-2-imidazolidinone | 17.5 mmol, 3.4 g | OC=1C=C(C=CC1O)N1C(NCC1)=O | C9H10N2O3
reactant | chlorotrimethylsilane | 70 mmol, 7.6 g | Cl[Si](C)(C)C | C3H9ClSi
reactant | triethylamine | 70 mmol, 7.0 g | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 1-[3,4-Bis[(trimethylsilyl)oxy]phenyl]-3-(trimethylsilyl)-2-imidazolidinone | C[Si](OC=1C=C(C=CC1O[Si](C)(C)C)N1C(N(CC1)[Si](C)(C)C)=O)(C)C | C18H34N2O3Si3
